2199-02-19 07:00:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Pt unable to tolerate po - cellcept po changed to IV, minimal
   toleration of liquid tacrolimus
   Pt received approx 5L IVF yesterday, fluids changed to D5W for
   hypernatremia to 150, now corrected and restarted on d51/2NS. Insulin
   gtt max at 29U now weaned to 2U/HR. AG 10 this am
   [**Last Name (un) 276**] consult evaled pt yesterday, serum HCG negative
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-2-18**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-19**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 98 (96 - 110) bpm
   BP: 126/70(84) {93/44(56) - 131/73(87)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,829 mL
                                                                  1,451 mL
   PO:
             TF:
   IVF:
                                                                  3,829 mL
                                                                  1,451 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    500 mL
   Urine:
                                                                  1,000 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,829 mL
                                                                    951 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.38/24/95.[**Numeric Identifier 607**]/14/-8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   8.6 g/dL
   98 mg/dL
   3.2 mg/dL
   14 mEq/L
   3.6 mEq/L
   51 mg/dL
   117 mEq/L
   140 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2199-2-18**]  05:19 AM
                             [**2199-2-18**]  06:30 AM
                             [**2199-2-18**]  09:21 AM
                             [**2199-2-18**]  11:23 AM
                             [**2199-2-18**]  01:00 PM
                             [**2199-2-18**]  03:33 PM
                             [**2199-2-18**]  07:33 PM
                             [**2199-2-19**]  02:30 AM
                             [**2199-2-19**]  02:37 AM
   WBC
   16.9
   13.4
   Hct
   27.9
   26.0
   Plt
   277
   262
   Cr
   3.4
   3.3
   3.3
   3.4
   3.3
   3.3
   3.2
   TropT
   0.04
   TCO2
   15
   Glucose
   [**Telephone/Fax (3) 8103**]31
   143
   83
   136
   99
   98
   Other labs: PT / PTT / INR:14.0/25.7/1.2, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CXR [**2-18**] - SINGLE PORTABLE UPRIGHT VIEW OF THE CHEST: The
   cardiomediastinal contour is
   normal. The heart is not enlarged. The lungs are clear. Osseous
   structures
   are unremarkable. A right internal jugular dialysis catheter has been
   removed.
   IMPRESSION: Unremarkable chest radiograph.
   Microbiology: [**2-18**] Blood Cx - NGTD
   Assessment and Plan
   37 yo F with DM1, s/p renal transplant p/w DKA and ARF.
   .
   # DKA: Unclear precipitant. Could be pump malfunction, although
   infection is on the differential despite no localizing symptoms given
   leukocytosis and left shift and elevated lactate. CE's flat, lateral
   changes could be secondary to rate. Insulin gtt is likely not working
   as well as it should given high dose steroids.
   - insulin gtt, currently at 10units/hr, need to increase given
   worsening of acid base status on second chem 7
   - aggressive IVF repletion with 1/2 NS now x 3L
   - replete K
   - check pH; if less than 7.0, can give 50meq nabicarb over 45 minutes
   - q2h lytes to follow AG for next 6 hours
   - Decrease insulin by [**1-4**] units/hr when glucose is less than 250
   - once gap is closed, continue insulin gtt at 0.5 - 1 unit per hour and
   start D5 gtt once glucose <100
   - once patient able to eat, can give subcut insulin and shut gtt off
   - send urine cx
   - check TSH
   .
   # ARF: likely prerenal azotemia on top of CRI given DKA. Will follow
   creatinine with IVF. Continue immunosuppression with steroids for now.
   - send urine lytes, urine cx
   - IVF
   .
   # Hypotension: patient has longstanding hypotension for which she eats
   a high salt diet and takes florinef. She was unable to take florinef
   today which is compounded by marked hypovolemia from DKA.
   - IVF, restart florinef
   .
   # Coffee ground emesis - likely [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Doctor Last Name **] tear as patient had
   frequent emesis during the day. Start ppi IV bid, guaiac stools,
   monitor hct. Send T&S.
   .
   # EKG changes - are likely rate related in the setting of borderline
   LVH. Trops are mildly elevated in the setting of renal failure, but
   CK/MB flat.
   .
   # S/p Renal Tx: check [**Last Name (un) **]/tac levels in AM. It is very important for
   her to restart her immunosuppressants and high dose steroids makes
   glucose control very difficult. Will switch cellcept to IV and attempt
   to pre-medicate with anti-emetics for pt to try to take [**Last Name (un) **]/tac.
   - renal tx recs
   .
   # Hypothyroidism: IV synthroid until taking PO
   .
   # Anemia: continue aranesp. Baseline seems to be about 30. Likely
   hemoconcentrated.
   .
   # Hypercholesterolemia: continue statin once taking PO
   .
   # Depression: continue celexa once taking PO
   .
   # FEN: Aggressive IVF, replete electrolytes especially K.
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2199-02-19 10:56:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hcg neg
   Gap closed
   Insulin drip down to 8/hr from 29/hr
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-2-18**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-19**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 106 (96 - 110) bpm
   BP: 121/65(78) {95/44(56) - 131/73(87)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,829 mL
                                                                  2,283 mL
   PO:
             TF:
   IVF:
                                                                  3,829 mL
                                                                  2,283 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    575 mL
   Urine:
                                                                  1,000 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,829 mL
                                                                  1,708 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.38/24/95.[**Numeric Identifier 607**]/14/-8
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Severe external neck pain, unable to examine
   Lymphatic: see above
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   262 K/uL
   98 mg/dL
   3.2 mg/dL
   14 mEq/L
   3.6 mEq/L
   51 mg/dL
   117 mEq/L
   140 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2199-2-18**]  05:19 AM
                             [**2199-2-18**]  06:30 AM
                             [**2199-2-18**]  09:21 AM
                             [**2199-2-18**]  11:23 AM
                             [**2199-2-18**]  01:00 PM
                             [**2199-2-18**]  03:33 PM
                             [**2199-2-18**]  07:33 PM
                             [**2199-2-19**]  02:30 AM
                             [**2199-2-19**]  02:37 AM
   WBC
   16.9
   13.4
   Hct
   27.9
   26.0
   Plt
   277
   262
   Cr
   3.4
   3.3
   3.3
   3.4
   3.3
   3.3
   3.2
   TropT
   0.04
   TCO2
   15
   Glucose
   [**Telephone/Fax (3) 8103**]31
   143
   83
   136
   99
   98
   Other labs: PT / PTT / INR:14.0/25.7/1.2, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Microbiology: Blood cxs: neg
   Assessment and Plan
 NAUSEA / VOMITING
 DIABETIC KETOACIDOSIS (DKA)
 HYPERNATREMIA (HIGH SODIUM)
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
   37 y/o F with DKA due to pump stopped, likely mechanical failure, renal
   transplant, persistent N/V and throat pain and hoarse voice.
   DKA: Gap closed again. On 8U/hr drip and D5NS running.
   Reduce both drips per BGT.
   [**Last Name (un) 276**] consult to switch back to pump.
   Follow lytes q4hr
   Hypernatremia: resolved
   Acute on chr renal failure: Check urine lytes. Baseline Cr 2.3. Down
   from 3.9 today. Bicarb imprved from 4. Check UA and cx.
   On tacro, cellcept. Check FK level.
   Not tolerating oral FK.
   Pre treat with reglan or will need iv FK.
   Does she need CMV ppx? Check CMV VL.
   ID: check UA. Severe neck pain with sore throat with hoarse voice. Swab
   for viral cxs, HSV, strep. No sinus tenderness or exudate as far as we
   can see. ENT consult.
   Anemia: Acute on chronic, follow
   Coffee ground emesis: ppi [**Hospital1 **]. Standing anti emetics.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   Comments: picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2199-02-20 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: DKA
   24 Hour Events:
   - Continued difficulty with insulin gtt - hyperglycemic over 400 in AM,
   dropped to 25 on 8 U/hr per ICU protocol.  Drip stopped, given amp D50,
   d50/bicarb continued at 100/hr.  When BG 125, gave 30U lantus and put
   drip at 2U/hr --> 4U/hr.  [**Last Name (un) 276**] involved.
   - CT of throat showed posterior pharynx "fullness".  Started clinda and
   levo (no Unasyn [**2-4**] PCN allergy).  MRI of neck soft tissues.
   - Fluconazole started for thrush coverage
   - MRI pending
   - AG closed overnight
   - achieved BG control, drip turned off at 0400
   - Throat culture pending
   Subjective:
   Improved nausea with reglan.  Continues to have odynophagia and throat
   pain.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2199-2-19**] 12:32 PM
   Levofloxacin - [**2199-2-19**] 09:23 PM
   Clindamycin - [**2199-2-20**] 06:38 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2199-2-19**] 04:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 92 (88 - 107) bpm
   BP: 157/82(99) {102/56(69) - 167/85(104)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,148 mL
                                                                  1,294 mL
   PO:
             TF:
   IVF:
                                                                  4,098 mL
                                                                  1,294 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                      0 mL
   Urine:
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,773 mL
                                                                  1,294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Gen: still uncomfortable appearing, though improved from yesterday
   HEENT: NCAT, MMM.  Erythematous posterior oropharynx with blood.  No
   petechiae or exudate.
   Neck: TTP mildline just above larynx
   PULM: ctab, no w/r/r
   CV: HRRR, 2/6 SEM at base
   ABD: s/nt/nd/nabs
   EXTR: no c/c/e
   neuro: aox4, cn intact grossly
   Labs / Radiology
   246 K/uL
   8.9 g/dL
   85 mg/dL
   2.9 mg/dL
   19 mEq/L
   3.2 mEq/L
   35 mg/dL
   112 mEq/L
   139 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2199-2-18**]  03:33 PM
                             [**2199-2-18**]  07:33 PM
                             [**2199-2-19**]  02:30 AM
                             [**2199-2-19**]  02:37 AM
                             [**2199-2-19**]  10:33 AM
                             [**2199-2-19**]  02:48 PM
                             [**2199-2-19**]  06:25 PM
                             [**2199-2-19**]  10:09 PM
                             [**2199-2-20**]  02:17 AM
                             [**2199-2-20**]  06:40 AM
   WBC
   16.9
   13.4
   8.6
   Hct
   27.9
   26.0
   25.6
   Plt
   277
   262
   246
   Cr
   3.3
   3.3
   3.2
   3.1
   3.0
   3.1
   3.1
   2.9
   TCO2
   15
   Glucose
   83
   136
   99
   98
   280
   69
   230
   148
   85
   Other labs: PT / PTT / INR:14.0/25.7/1.2, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Ca++:7.5 mg/dL, Mg++:3.6 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   37 yo F with DM1, s/p renal transplant p/w DKA and ARF.
   # DKA: Unclear precipitant. Could be pump malfunction, although
   infection is on the differential and now she has possible upper airway
   infection.  Achieved BG control with SC lantus and weaning insulin
   gtt.  AG now closed and bicarb improved.
   - cont lantus 30U qday and start SSI, follow [**Last Name (un) 276**] recs for adjustment
   (appreciate input).
   - d/c bicarb as bicarb improved, cont d5 while not eating
   - replete K prn
   - q 8 hour lytes
   - ADAT
   - f/u cultures and upper airway infection workup as below.
   .
   # Throat pain: also has possible area of infection in posterior
   pharynx.  CT unable to see abscess.  MRI pending.  ENT involed
   (appreciate input).
   - cont clinda/levo (PCN allergy, so no unasyn)
   - f/u MRI
   - f/u throat culture data (pending)
   .
   # ARF: likely prerenal azotemia on top of CRI given DKA as well as
   possible contribution from inability to take immunosuppressives. Will
   follow creatinine with IVF. Continue immunosuppression (not taking
   sirolimus while unable to take PO).   Acute renal failure mproving.
   - IVF
   - follow
   - follow renal transplant recs (appreciate input)
   - follow tacro level, change to PO when taking PO
   - restart sirolimus PO when taking PO pending transplant recs
   .
   # Hypotension: patient has longstanding hypotension for which she eats
   a high salt diet and takes florinef. She was unable to take florinef
   leading up to admission which is compounded by marked hypovolemia from
   DKA.
   - IVF prn
   - restart florinef when taking POs
   .
   # S/p Renal Tx: tacro being given sublingual.  Cellcept IV.
   - follow renal transplant recs
   - Tacro levels
   - sirolimus when taking PO pending transplant recs
   - follow Cr
   .
   # Hypothyroidism: IV synthroid until taking PO
   .
   # Anemia: not on aranesp, discuss with transplant.  Baseline seems to
   be about 30.
   .
   # Hypercholesterolemia: continue statin once taking PO
   .
   # Depression: continue celexa once taking PO
   .
   # FEN: IVF prn, replete electrolytes prn
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2199-02-20 09:29:00 Physician Attending Progress Note
Chief Complaint: DKA, Upper resp infection
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hard to control sugars, huge swings with anion gap fluctuations.
   Started on lantus 30 U at night, and then insulin drip weaned off.
   Still on D5bicarb drip at 100/hr since she is not eating.
   Started iv fluconazole for ? thrush, and clinda and levo for ?
   retropharyngeal abcess.
   CT neck: ? soft tissue swelling in pharynx
   MRI neck: pending this am
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2199-2-19**] 12:32 PM
   Levofloxacin - [**2199-2-19**] 09:23 PM
   Clindamycin - [**2199-2-20**] 06:38 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2199-2-19**] 04:32 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-20**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 88 (88 - 107) bpm
   BP: 153/82(98) {113/56(70) - 167/85(104)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,154 mL
                                                                  1,537 mL
   PO:
             TF:
   IVF:
                                                                  4,104 mL
                                                                  1,537 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                      0 mL
   Urine:
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,779 mL
                                                                  1,537 mL
   Respiratory support
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Petechiae and erythma, ? ulceration over
   palate and post phy wall
   Lymphatic: see above
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3
   Labs / Radiology
   8.9 g/dL
   246 K/uL
   101 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.1 mEq/L
   33 mg/dL
   112 mEq/L
   140 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2199-2-18**]  03:33 PM
                             [**2199-2-18**]  07:33 PM
                             [**2199-2-19**]  02:30 AM
                             [**2199-2-19**]  02:37 AM
                             [**2199-2-19**]  10:33 AM
                             [**2199-2-19**]  02:48 PM
                             [**2199-2-19**]  06:25 PM
                             [**2199-2-19**]  10:09 PM
                             [**2199-2-20**]  02:17 AM
                             [**2199-2-20**]  06:40 AM
   WBC
   16.9
   13.4
   8.6
   Hct
   27.9
   26.0
   25.6
   Plt
   277
   262
   246
   Cr
   3.3
   3.3
   3.2
   3.1
   3.0
   3.1
   3.1
   2.9
   2.9
   TCO2
   15
   Glucose
   83
   136
   99
   98
   280
   69
   230
   148
   85
   101
   Other labs: PT / PTT / INR:13.4/24.8/1.2, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Microbiology: thorat cx: pend
   UCx: ngtd
   BCx: ngtd
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 NAUSEA / VOMITING
 DIABETIC KETOACIDOSIS (DKA)
 HYPERNATREMIA (HIGH SODIUM)
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
   37 y/o F with DKA due to insulin pump failure, renal transplant,
   persistent N/V, throat pain and hoarse voice.
   DKA: Gap closed, off drip, on lantus and ssi, follow [**Last Name (un) 276**] recs reg
   putting back on pump. Lytes q8h
   ID: ? Thrush vs inflamation vs infection vs retropharyngeal
   abcess...check MRI neck today. On fluconazole, levaquin and clinda.
   Throat swabs for strep, HSV pend. Leukocytosis improved, afebrile.
   Acute on chronic renal failure: Improving with hydration. Taking only
   tacro and cellcept, not taking sirolimus. D/w renal tx regarding
   options. CMV VL pending.
   N/V: Standing anti emetics. Under control. On PPI.
   FEN: Stop bicarb, cont D5 with 1/2NS at 100
   Rest per resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   Comments: Picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2199-02-21 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: DKA
   24 Hour Events:
   - MRI neck showed retropharyngeal fluid collection measuring 3 mm x 30
   mm, improved in size from CT scan from [**2-19**].  ENT aware of result.
   - Refused scope by ENT
   - PICC placed
   - Reduced Tacrolimus dose as per Renal recs
   - Continues to have nonproductive wretching; started Afrin for ? PND
 MAGNETIC RESONANCE IMAGING - At [**2199-2-20**] 10:15 AM
 PICC LINE - START [**2199-2-20**] 03:00 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-2-19**] 09:23 PM
   Fluconazole - [**2199-2-20**] 12:08 PM
   Clindamycin - [**2199-2-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2199-2-20**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-21**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 87 (83 - 92) bpm
   BP: 153/86(102) {122/57(73) - 153/92(105)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,680 mL
                                                                  1,067 mL
   PO:
             TF:
   IVF:
                                                                  3,680 mL
                                                                  1,067 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    450 mL
   Urine:
                                                                  1,075 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,605 mL
                                                                    617 mL
   Respiratory support
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen: NAD
   Heent: ncat, mmm.  White exudate over mucosa.  Erythema in posterior
   oropharynx.
   Pulm: ctab, no w/r/r
   Cv: hrrr, 2/6 sem at base. No r/g
   Abd: s/nt/nd/nabs
   Extr: left toe amputations. No c/c/e
   Neuro: aox4, cn 2-12 intact grossly
   Labs / Radiology
   213 K/uL
   8.6 g/dL
   133 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   27 mg/dL
   110 mEq/L
   138 mEq/L
   25.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2199-2-19**]  02:37 AM
                             [**2199-2-19**]  10:33 AM
                             [**2199-2-19**]  02:48 PM
                             [**2199-2-19**]  06:25 PM
                             [**2199-2-19**]  10:09 PM
                             [**2199-2-20**]  02:17 AM
                             [**2199-2-20**]  06:40 AM
                             [**2199-2-20**]  02:54 PM
                             [**2199-2-20**]  11:50 PM
                             [**2199-2-21**]  05:44 AM
   WBC
   8.6
   5.7
   Hct
   25.6
   25.6
   Plt
   246
   213
   Cr
   3.1
   3.0
   3.1
   3.1
   2.9
   2.9
   2.7
   2.8
   TCO2
   15
   Glucose
   98
   280
   69
   230
   148
   85
   101
   173
   133
   Other labs: PT / PTT / INR:12.7/24.8/1.1, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   37 yo F with DM1, s/p renal transplant p/w DKA and ARF.
   # DKA: Unclear precipitant. Could be pump malfunction, although
   infection is on the differential and now she has possible upper airway
   infection.  Achieved BG control with SC lantus and weaning insulin
   gtt.  AG now closed and bicarb improved.
   - cont lantus 30U qday and start SSI, follow [**Last Name (un) 276**] recs for adjustment
   (appreciate input).
   - d/c bicarb as bicarb improved, cont d5 while not eating
   - replete K prn
   - q 8 hour lytes
   - ADAT
   - f/u cultures and upper airway infection workup as below.
   .
   # Throat pain: also has possible area of infection in posterior
   pharynx.  CT unable to see abscess.  MRI showed smaller area, no fluid
   collection or mass.  ENT involed (appreciate input), patient has
   refused scope.  Now has signs of thrush as well.
   - cont clinda/levo (PCN allergy, so no unasyn)
   - repeat MRI in 2 days
   - f/u throat culture data still (pending)
   - cont fluconazoel
   - magic mouthwash for pain control and assistance in taking PO meds
   .
   # ARF: likely prerenal azotemia on top of CRI given DKA as well as
   possible contribution from inability to take immunosuppressives. Will
   follow creatinine with IVF. Continue immunosuppression (not taking
   sirolimus while unable to take PO).   Acute renal failure mproving.
   - IVF
   - follow
   - follow renal transplant recs (appreciate input)
   - follow tacro level, change to PO when taking PO
   - encourage PO for sirolimus
   .
   # Hypotension: patient has longstanding hypotension for which she eats
   a high salt diet and takes florinef. She was unable to take florinef
   leading up to admission which is compounded by marked hypovolemia from
   DKA.
   - IVF prn
   - restart florinef when taking POs
   .
   # HTN: hypertensive today, possibly secondary to recent increased
   tacro.  Usually hypotensive, so reticent to treat HTN.
   - follow, treat prn if necessary
   # S/p Renal Tx: tacro being given sublingual.  Cellcept IV.
   - follow renal transplant recs
   - Tacro levels
   - sirolimus when taking PO pending transplant recs
   - follow Cr
   .
   # Hypothyroidism: IV synthroid until taking PO
   .
   # Anemia: not on aranesp, discuss with transplant.  Baseline seems to
   be about 30.
   .
   # Hypercholesterolemia: continue statin once taking PO
   .
   # Depression: continue celexa once taking PO
   .
   # FEN: IVF prn, replete electrolytes prn
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   PICC Line - [**2199-2-20**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-02-21 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2199-2-20**] 10:15 AM
 PICC LINE - START [**2199-2-20**] 03:00 PM
 CALLED OUT
   MRI neck with RP fluid collection smaller than CT neck findings.
   No focal mass/collection, nothing to tap.
   Patient refused ENT scope.
   FK dose reduced per renal recs.
   Non-productive retching, ? PND: started on Afrin
   Blood sugars well controlled
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   edema (+20lbs
   Codeine
   Hives;
   Hives;
   Sulfa (Sulfonamides)
   Fever/Chills; f
   Dipentum (Oral) (Olsalazine Sodium)
   Hives;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-2-19**] 09:23 PM
   Fluconazole - [**2199-2-20**] 12:08 PM
   Clindamycin - [**2199-2-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2199-2-20**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-21**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 86 (83 - 92) bpm
   BP: 148/82(98) {122/57(73) - 153/92(105)} mmHg
   RR: 13 (5 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,680 mL
                                                                  1,350 mL
   PO:
             TF:
   IVF:
                                                                  3,680 mL
                                                                  1,350 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    600 mL
   Urine:
                                                                  1,075 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,605 mL
                                                                    750 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Petechiae and erythema, ? ulceration over
   palate and post pharyngeal wall
   Lymphatic: see above, Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Neurologic: Attentive, Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): x 3
   Labs / Radiology
   8.6 g/dL
   213 K/uL
   86 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   25 mg/dL
   109 mEq/L
   139 mEq/L
   25.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2199-2-19**]  02:37 AM
                             [**2199-2-19**]  10:33 AM
                             [**2199-2-19**]  02:48 PM
                             [**2199-2-19**]  06:25 PM
                             [**2199-2-19**]  10:09 PM
                             [**2199-2-20**]  02:17 AM
                             [**2199-2-20**]  06:40 AM
                             [**2199-2-20**]  02:54 PM
                             [**2199-2-20**]  11:50 PM
                             [**2199-2-21**]  05:44 AM
   WBC
   8.6
   5.7
   Hct
   25.6
   25.6
   Plt
   246
   213
   Cr
   3.1
   3.0
   3.1
   3.1
   2.9
   2.9
   2.7
   2.8
   2.6
   TCO2
   15
   Glucose
   98
   280
   69
   230
   148
   85
   101
   173
   133
   86
   Other labs: PT / PTT / INR:12.7/24.8/1.1, CK / CKMB /
   Troponin-T:92//0.04, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:2.4
   %, Eos:1.4 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Microbiology: CMV VL pend
   Thorat cx: beta strep, not grp A
   Thorat strep: neg
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 NAUSEA / VOMITING
 DIABETIC KETOACIDOSIS (DKA)
 HYPERNATREMIA (HIGH SODIUM)
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
   37 y/o F s/p renal tx with resolved DKA, throat pain with thrush, ? RP
   abcess on CT/MRI neck, resolving. Patient refusing ENT scope.
   DKA: Resolved, on lantus and ssi, continue D5 drip if po intake poor.
   ID: fluconazole for thrush, continue clinda and levoflox, determine
   course with ENT. Repeat MRI neck in next 1-2 days per ENT.
   Acute on chronic renal failure: Improving with hydration. FK dose
   reduced, follow levels. Encourage po intake with magic mouthwash. CMV
   VL pending.
   N/V: Standing anti emetics for dry heaves. On PPI and afrin nasal spray
   HTN: High prograf level vs SSRI withdrawal
   FEN: encourage po intake with magic mouthwash. Give iv what we can.
   Rest per resident note
   ICU Care
   Nutrition: encourage po intake.
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine
   Lines:
   20 Gauge - [**2199-2-18**] 06:17 AM
   PICC Line - [**2199-2-20**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 38 minutes